US07271197B2
vii) 3-({2-[4-(2-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)benzamide
A solution of 3-({2-[4-(2-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)benzonitrile (4.6 g) in tetrahydrofuran (70 ml) was treated with potassium trimethylsilanoate (9.32 g) and heated at 70° C. for 71 h. The reaction mixture was concentrated in vacuo and partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate and the combined organic phase washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography (SPE, eluted with a gradient between dichloromethane and 10% methanol in dichloromethane) to give the title compound (1.01 g). LCMS RT=2.42 min.

reactant | 3-({2-[4-(2-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)benzonitrile | 4.6 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCC2=CC=C(OCCOCC=1C=C(C#N)C=CC1)C=C2)O)C | C30H34N2O5
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 3-({2-[4-(2-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)benzamide | 1.01 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCC2=CC=C(OCCOCC=1C=C(C(=O)N)C=CC1)C=C2)O)C | C30H36N2O6
